US04434175
5-(p-Chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetic acid (478 mg) is suspended in 5 ml of absolute ethanol under nitrogen and heated to reflux. Concentrated hydrochloric acid (75 ml) is subsequently added and the reaction mixture is heated for another 20 minutes until all the solids are dissolved. The resulting solution is heated for an additional 10 minutes. Upon cooling, the product crystallizes out and is filtered, and dried in vacuo to afford 260 mg of ethyl 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetate, m.p. 190 (dec.)

reactant | 5-(p-Chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetic acid | 478 mg | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)O)C(=O)O)OC)C=C1 | C16H14ClNO6
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetate | 260 mg | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)O)OC)C=C1 | C18H18ClNO6
